US06573274B1
5-Bromo-3-(2-chloro-4-phenylbenzyl)-2-ethoxy-3H-imidazo[4,5-b]pyridine (57 mg) was dissolved in N,N-dimethylformamide (1.3 ml) and tert-butyl alcohol (1.0 ml) and triethylamine (30.4 mg), 1,3-bis(diphenylphosphino)propane (17 mg) and palladium (II) acetate (9.3 mg) were successively added. The mixture was stirred under a 10 atm. carbon monoxide atmosphere at 85° C. for 48 hr. The insoluble matter was filtered off and washed with chloroform. The filtrate and washing were combined and concentrated to dryness under reduced pressure. The residue was purified by thin layer chromatography (chlorofozm:methanol=19:1) to give 3-(2-chloro-4-phenylbenzyl)-2-ethoxy-3H-imidazo[4,5-b]pyridine-5-carboxylic acid (43 mg) as a brown oil.

reactant | 5-Bromo-3-(2-chloro-4-phenylbenzyl)-2-ethoxy-3H-imidazo[4,5-b]pyridine | 57 mg | BrC1=CC=C2C(=N1)N(C(=N2)OCC)CC2=C(C=C(C=C2)C2=CC=CC=C2)Cl | C21H17BrClN3O
reactant | tert-butyl alcohol | 1.0 ml | C(C)(C)(C)O | C4H10O
reactant | 1,3-bis(diphenylphosphino)propane | 17 mg | C1(=CC=CC=C1)P(CCCP(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C27H26P2
reactant | carbon monoxide | [C]=O | CO
solvent | N,N-dimethylformamide | 1.3 ml | CN(C=O)C | C3H7NO
catalyst | palladium (II) acetate | 9.3 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | triethylamine | 30.4 mg | C(C)N(CC)CC | C6H15N
product | 3-(2-chloro-4-phenylbenzyl)-2-ethoxy-3H-imidazo[4,5-b]pyridine-5-carboxylic acid | 43 mg | ClC1=C(CN2C(=NC=3C2=NC(=CC3)C(=O)O)OCC)C=CC(=C1)C1=CC=CC=C1 | C22H18ClN3O3
